US20010027196A1
4-Benzylsulfanyl-5-bromo-6-furan-2-yl-pyrimidin-2-yl-amine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, benzylmercaptan and DBU in dioxane. EI-MS m/e (%): 363 (M{81Br}+, 48), 361 (M{79Br}+, 46), 282 ([M—Br]+, 68), 249 (35), 91 (100).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | benzylmercaptan | C(C1=CC=CC=C1)S | C7H8S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Benzylsulfanyl-5-bromo-6-furan-2-yl-pyrimidin-2-yl-amine | C(C1=CC=CC=C1)SC1=NC(=NC(=C1Br)C=1OC=CC1)N | C15H12BrN3OS
